US07601716B2
1-[3-Fluoro-2-(trifluoromethyl)benzyl]-7-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
1-[3-Fluoro-2-(trifluoromethyl)benzyl]-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (101 mg) was coupled to 1-methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine as in General Procedure 4B to give the title compound as a yellow solid (31% yield). LCMS: m/z=487.09 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.33 (3H, s), 2.51 (4H, t, J=4.9 Hz), 3.49 (2H, m), 3.55 (4H, t, J=4.9 Hz), 3.63 (2H, m), 4.65 (2H, s), 5.08 (1H, bs), 6.48 (1H, d, J=1.8 Hz), 6.64 (1H, d, J=8.8 Hz), 7.09 (1H, m), 7.26 (1H, m), 7.45 (2H, m), 7.62 (1H, d, J=1.8 Hz), 8.18 (1H, d, J=2.5 Hz).

reactant | 1-[3-Fluoro-2-(trifluoromethyl)benzyl]-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 101 mg | FC=1C(=C(CN2C3=C(NCC2)N=CC(=C3)I)C=CC1)C(F)(F)F | C15H12F4IN3
reactant | 1-methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine | CN1CCN(CC1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H26BN3O2
product | 1-[3-Fluoro-2-(trifluoromethyl)benzyl]-7-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 31% yield | FC=1C(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=NC(=CC3)N3CCN(CC3)C)C=CC1)C(F)(F)F | C25H26F4N6
